**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 26, 00
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source

.SUBCKT irlml2803 1 2 3

	M1 9 7 8 8 MM L=100u W=100u
	* Default values used in MM:
	* The voltage-dependent capacitances are
	* not included. Other default values are:
	*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
	.MODEL MM NMOS LEVEL=1 IS=1e-32
	+VTO=2.62335 LAMBDA=0.00630521 KP=3.99022
	+CGSO=7.28296e-07 CGDO=6.0828e-08
	RS 8 3 0.178045
	D1 3 1 MD
	.MODEL MD D IS=6.90078e-12 RS=0.0841619 N=1.20947 BV=30
	+IBV=2.5e-05 EG=1.2 XTI=1.0612 TT=0.0001
	+CJO=9.23185e-11 VJ=0.5 M=0.391445 FC=0.5
	RDS 3 1 1e+06
	RD 9 1 0.0001
	RG 2 7 1.21477
	D2 4 5 MD1
	* Default values used in MD1:
	*   RS=0 EG=1.11 XTI=3.0 TT=0
	*   BV=infinite IBV=1mA
	.MODEL MD1 D IS=1e-32 N=50
	+CJO=9.55883e-11 VJ=0.5 M=0.600155 FC=1e-08
	D3 0 5 MD2
	* Default values used in MD2:
	*   EG=1.11 XTI=3.0 TT=0 CJO=0
	*   BV=infinite IBV=1mA
	.MODEL MD2 D IS=1e-10 N=0.400008 RS=3e-06
	RL 5 10 1
	FI2 7 9 VFI2 -1
	VFI2 4 0 0
	EV16 10 0 9 7 1
	CAP 11 10 1.93012e-10
	FI1 7 9 VFI1 -1
	VFI1 11 6 0
	RCAP 6 10 1
	D4 0 6 MD3
	* Default values used in MD3:
	*   EG=1.11 XTI=3.0 TT=0 CJO=0
	*   RS=0 BV=infinite IBV=1mA
	.MODEL MD3 D IS=1e-10 N=0.400008
.ENDS irlml2803
